US05885986
A yellow suspension of 10.3 g (0.0336 mol) of 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide in 220 ml of dioxan was treated with 4.69 g (0.0370 mol) of 1,3-dichloro-2-propanone. The solution was boiled at reflux for 16 hrs., cooled and suction filtered. There were obtained 11.1 g (87%) of 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as brown crystals. An analytical sample was recrystallized from hot acetonitrile. White crystals; m.p. 277°-279°.

reactant | 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide | 0.0336 mol, 10.3 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(N)=S)C)=O | C13H11ClN4OS
reactant | 1,3-dichloro-2-propanone | 0.0370 mol, 4.69 g | ClCC(CCl)=O | C3H4Cl2O
solvent | dioxan | 220 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 11.1 g, 87% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1SC=C(N1)CCl)C)=O | C16H12Cl2N4OS
